2125-12-28 11:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2125-12-27**] 01:04 PM
   Right IJ TLCL
   MS improved
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-12-27**] 05:55 PM
   Meropenem - [**2125-12-28**] 04:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-28**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2125-12-28**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.9
C (96.7
   HR: 89 (66 - 96) bpm
   BP: 152/86(102) {110/58(70) - 166/95(111)} mmHg
   RR: 16 (7 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  9,136 mL
                                                                    961 mL
   PO:
             750 mL
   TF:
   IVF:
                                                                    636 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                  1,030 mL
   Urine:
                                                                  1,975 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,886 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   153 K/uL
   12.4 g/dL
   179 mg/dL
   2.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   21 mg/dL
   113 mEq/L
   145 mEq/L
   37.0 %
   22.2 K/uL
        [image002.jpg]
                            [**2125-12-27**]  05:16 PM
                            [**2125-12-27**]  05:35 PM
                            [**2125-12-28**]  03:52 AM
   WBC
   23.3
   22.2
   Hct
   38.0
   37.0
   Plt
   151
   153
   Cr
   2.3
   2.0
   TropT
   0.06
   Glucose
   238
   179
   Other labs: CK / CKMB / Troponin-T:297/5/0.06, Lactic Acid:1.4 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN:  61 year-old male with a history of obstructing left
   renal stone, suprapubic catheter (neurogenic bladder s/p CVA), numerous
   UTIs who presents from day care center with fever, lethargy and
   hypotension.
   .
   #Sepsis: likely source UTI. Pt has had multiple UTI in past. has grown
   psudomonas from urine.
   - IVF
   - Vanc and zosyn till [**Last Name (un) **] come back
   - f/u bld cx, urine cx
   - f/u CT abd to look for e/o pyelo/renal abscess
   - f/u Urology recs
   .
   #Type I DM: cont home dose lantus and lispor and lispro SS
   .
   # Hyperlipidemia: cont simvastatin
   .
   #Depression: cont celexa
   .
   # Pain: cont home oxycodone 10 prn
   .
   # FEN: IVFs / replete lytes prn / regular diet
   .
   # PPX: PPI, heparin SQ, bowel regimen
   .
   # ACCESS: PIV
   .
   # CODE: full
   .
   # CONTACT: Pt
   .
   # DISPO:  floor
   ICU Care
   Nutrition:
   Diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2125-12-27**] 01:34 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:

2125-12-29 10:09:00 Physician Resident Progress Note
Chief Complaint: Foot pain this AM, same as chronic.
   24 Hour Events:
   CT showed catheter in ureter. Urology removed and replaced it.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-12-27**] 05:55 PM
   Meropenem - [**2125-12-29**] 04:33 AM
   Vancomycin - [**2125-12-29**] 08:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-29**] 07:43 AM
   Omeprazole (Prilosec) - [**2125-12-29**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2125-12-29**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 84 (61 - 101) bpm
   BP: 144/79(94) {124/60(76) - 152/86(102)} mmHg
   RR: 16 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,940 mL
                                                                    750 mL
   PO:
                                                                  1,300 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    640 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                  1,180 mL
   Urine:
                                                                  2,430 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -940 mL
                                                                   -431 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Dullness : ), (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Ostomy in place w/stool in bag
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   149 K/uL
   11.1 g/dL
   110 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.9 mEq/L
   19 mg/dL
   109 mEq/L
   142 mEq/L
   34.7 %
   15.7 K/uL
        [image002.jpg]
                            [**2125-12-27**]  05:16 PM
                            [**2125-12-27**]  05:35 PM
                            [**2125-12-28**]  03:52 AM
                            [**2125-12-29**]  04:37 AM
   WBC
   23.3
   22.2
   15.7
   Hct
   38.0
   37.0
   34.7
   Plt
   151
   153
   149
   Cr
   2.3
   2.0
   1.3
   TropT
   0.06
   Glucose
   238
   179
   110
   Other labs: PT / PTT / INR:14.7/29.6/1.3, CK / CKMB /
   Troponin-T:297/5/0.06, Lactic Acid:1.4 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN:  61 year-old male with a history of obstructing left
   renal stone, suprapubic catheter (neurogenic bladder s/p CVA), s/p
   colectomy for SBO, and numerous UTIs who presents from day care center
   with fever, lethargy and hypotension.
   .
   #Sepsis: likely source urinary tract in pt w/h/o recurrent UTIs, h/o
   klebsiella/pseudomonas. Has been hemodynamically stable for 24  hours.
   WBCs trending down.
   - d/c vanc
   - continue meropenam for 14 day course
   - f/u bld cx, urine cx
   - Urology following, appreciate their recs
   # Nephrostomy tube: for neurogenic bladder. Replaced by urology last
   night after found to be in ureter.
   #Type I DM: cont home dose lantus and lispro and lispro SS
   .
   # Hyperlipidemia: cont simvastatin
   .
   #Depression: cont celexa
   .
   # Pain: cont home oxycodone 10 prn
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2125-12-27**] 01:33 PM
   22 Gauge - [**2125-12-28**] 08:38 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full
   Disposition: c/o to floor